US07223788B2
trans-N-(4-Hydroxypyrrolidin-3-yl)-N-methylacetamide
tert-Butyl trans-3-hydroxy-4-methylaminopyrrolidin-1-carboxylate (1.0 g, tetrahedron: Asymmetry 2001, 12, 2989) was mixed with pyridine (1.5 g) and acetic anhydride (0.567 g). After 3 hours, volatile fractions were removed under high vacuum. The residue was treated by method G. This resulted in the product with the molecular weight of 158.20 (C7H14N2O2); MS (ESI): 159 (M+H+).

reactant | tert-Butyl trans-3-hydroxy-4-methylaminopyrrolidin-1-carboxylate | 1.0 g | O[C@@H]1CN(C[C@H]1NC)C(=O)OC(C)(C)C | C10H20N2O3
reactant | acetic anhydride | 0.567 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.5 g | N1=CC=CC=C1 | C5H5N
product | trans-N-(4-Hydroxypyrrolidin-3-yl)-N-methylacetamide | O[C@H]1[C@@H](CNC1)N(C(C)=O)C | C7H14N2O2
